US07737295B2
A mixture of 3-methoxy-5-(trifluoromethyl)benzonitrile (88 mg, 0.43 mmol) and PtO2 (9.8 mg, 0.043 mmol) in 88% formic acid (651 μL) was heated to 60° C. The reaction was stirred at this temperature for thirty minutes. The reaction was then cooled to room temperature, diluted with hexanes (5 mL), loaded on a silica gel column, and purified with 1% to 15% EtOAc/hexanes to afford 3-methoxy-5-(trifluoromethyl)benzaldehyde. Rf=0.56 (25% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 10.01 (s, 1H), 7.71 (s, 1H), 7.56 (s, 1H), 7.39 (s, 1H), 3.92 (s, 3H).

reactant | 3-methoxy-5-(trifluoromethyl)benzonitrile | 0.43 mmol, 88 mg | COC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H6F3NO
reactant | formic acid | 651 μL | C(=O)O | CH2O2
catalyst | PtO2 | 0.043 mmol, 9.8 mg | O=[Pt]=O
product | 3-methoxy-5-(trifluoromethyl)benzaldehyde | COC=1C=C(C=O)C=C(C1)C(F)(F)F | C9H7F3O2
